US07608623B2
3.4 TIPPS-3-nitro-(L)-phenylalanine-4-ethoxycarbonylpiperazide
TIPPS-3-nitro-(L)-phenylalanine (210 g; 0.44 mmol; 76% purity), ethyloxycarbonylpiperazine (69.7 g; 0.44 mmol) and 1-hydroxybenzotriazole (101 g; 660 mmol) were dissolved in 650 ml of DMF and cooled to 10° C. A solution of dicyclohexylcarbodiimide (100 g; 0.484 mmol) in 216 ml of DMF was added dropwise over a period of 2 h and the reaction solution was stirred at RT overnight. After evaporating the solvent, the residue was dissolved in 436 ml of MTBE, the precipitate was filtered off, and the organic solution was extracted in each case 2× with 5% KHSO4, 5% NaHCO3 and distilled water. The solvent was evaporated under vacuum, toluene was added and then evaporated in a rotary evaporator and the product was dried under vacuum.

reactant | TIPPS 3-nitro-(L)-phenylalanine | 0.44 mmol, 210 g | C1=CC=C(C(=C1)C(=C2C=C(C(=O)C(=C2)I)I)C3=CC(=C(C(=C3)I)[O-])I)C(=O)[O-].[Na+].[Na+].[N+](=O)([O-])C=1C=C(C[C@H](N)C(=O)O)C=CC1
reactant | ethyloxycarbonylpiperazine | 0.44 mmol, 69.7 g | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
reactant | 1-hydroxybenzotriazole | 660 mmol, 101 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 0.484 mmol, 100 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | DMF | 650 ml | CN(C)C=O | C3H7NO
solvent | DMF | 216 ml | CN(C)C=O | C3H7NO
product | TIPPS 3-nitro-(L)-phenylalanine-4-ethoxycarbonylpiperazide | C1=CC=C(C(=C1)C(=C2C=C(C(=O)C(=C2)I)I)C3=CC(=C(C(=C3)I)[O-])I)C(=O)[O-].[Na+].[Na+].C(C)OC(=O)N1CCN(CC1)C([C@@H](N)CC1=CC(=CC=C1)[N+](=O)[O-])=O | InChI=1S/C20H10I4O4.C16H22N4O5.2Na/c21-13-5-9(6-14(22)18(13)25)17(10-7-15(23)19(26)16(24)8-10)11-3-1-2-4-12(11)20(27)28;1-2-25-16(22)19-8-6-18(7-9-19)15(21)14(17)11-12-4-3-5-13(10-12)20(23)24;;/h1-8,25H,(H,27,28);3-5,10,14H,2,6-9,11,17H2,1H3;;/q;;2*+1/p-2/t;14-;;/m.0../s1
